US08754220B2
Methyl 4-[({1-[(4-cyano-4-pyridin-2-ylpiperidin-1-yl)methyl]-4-oxo-4H-quinolizin-3-yl}carbonyl)amino]piperidine-1-carboxylate
To a solution of 1-[(4-cyano-4-pyridin-2-ylpiperidin-1-yl)methyl]-4-oxo-N-piperidin-4-yl-4H-quinolizine-3-carboxamide (0.027 g, 0.057 mmol) in 2 mL of dichloromethane was added triethylamine (0.3 mL, 2.1 mmol) followed by methyl chloroformate (0.10 mL, 1.3 mmol). After 1 h, the mixture was washed with 0.5 N aqueous sodium hydroxide and brine, dried over sodium sulfate, filtered, and concentrated in vacuo to provide the title compound that gave a proton NMR spectra consistent with theory: 1H NMR (400 MHz, CDCl3) δ 9.80 (d, J=7.7 Hz, 1H), 9.40 (d, J=7.3 Hz, 1H), 8.65 (s, 1H), 8.60-8.58 (m, 1H), 8.19 (d, J=8.9 Hz, 1H), 7.76-7.66 (m, 2H), 7.62-7.59 (m, 1H), 7.32-7.23 (m, 2H), 4.24-4.21 (m, 1H), 4.03 (br s, 1H), 3.82 (s, 2H), 3.71 (s, 3H), 3.69-3.61 (m, 2H), 3.15-3.09 (m, 1H), 3.02-2.98 (m, 1H), 2.60-2.57 (m, 1H), 2.55-2.50 (m, 2H), 2.32-2.25 (m, 1H), 2.09-2.02 (m, 2H), 1.93 (br s, 1H), 1.59-1.52 (m, 1H), 1.40-1.37 (m, 2H), 1.06-1.01 (m, 3H).

reactant | 1-[(4-cyano-4-pyridin-2-ylpiperidin-1-yl)methyl]-4-oxo-N-piperidin-4-yl-4H-quinolizine-3-carboxamide | 0.057 mmol, 0.027 g | C(#N)C1(CCN(CC1)CC=1C=C(C(N2C=CC=CC12)=O)C(=O)NC1CCNCC1)C1=NC=CC=C1 | C27H30N6O2
reactant | triethylamine | 2.1 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 1.3 mmol, 0.10 mL | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | Methyl 4-[({1-[(4-cyano-4-pyridin-2-ylpiperidin-1-yl)methyl]-4-oxo-4H-quinolizin-3-yl}carbonyl)amino]piperidine-1-carboxylate | C(#N)C1(CCN(CC1)CC=1C=C(C(N2C=CC=CC12)=O)C(=O)NC1CCN(CC1)C(=O)OC)C1=NC=CC=C1 | C29H32N6O4
